US07700628B2
A. 2-hydroxy-4-(methylthio)benzoic acid
2-Methoxy-4-(methylthio)benzoic acid (1.002 g, 5.05 mmol) was dissolved in dichloromethane (18 mL). The solution was cooled to −65° C. in a dry ice/chloroform bath. A dichloromethane solution of boron tribromide (5.4 mL, 5.4 mmol) was then added slowly. After 3 hours, the reaction was quenched with water (5 mL) and 1 N HCl (10 mL). After stirring for 10 minutes, the reaction was extracted with dichloromethane (100 mL). The organic layer was washed with 1 N HCl (10 mL) and then dried over magnesium sulfate, filtered, and concentrated to give the pure product as a pale yellow solid (866 mg, 4.70 mmol, 93%).

reactant | 2-Methoxy-4-(methylthio)benzoic acid | 5.05 mmol, 1.002 g | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | boron tribromide | 5.4 mmol, 5.4 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 2-hydroxy-4-(methylthio)benzoic acid | 4.70 mmol, 866 mg, 93% | OC1=C(C(=O)O)C=CC(=C1)SC | C8H8O3S
